US07776875B2
Preparation of Intermediate E/Z-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetonitrile
To the mixture of 6-chlorooxindole (18.4 g, 0.110 mol) and (4-chloro-2-formyl-phenoxy)-acetonitrile (21.5 g, 0.110 mol) in methanol (200 mL) was added pyrrolidine (8.60 g, 0.121 mol) dropwise. Then the mixture was heated at 70° C. for 2 h. After cooled to room temperature, the mixture was filtered. The precipitate was collected and dried to give the title compound as a yellow solid (8.5 g).

reactant | 6-chlorooxindole | 0.110 mol, 18.4 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | (4-chloro-2-formyl-phenoxy)-acetonitrile | 0.110 mol, 21.5 g | ClC1=CC(=C(OCC#N)C=C1)C=O | C9H6ClNO2
reactant | pyrrolidine | 0.121 mol, 8.60 g | N1CCCC1 | C4H9N
solvent | methanol | 200 mL | CO | CH4O
product | Z-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-acetonitrile | 8.5 g | ClC1=CC(=C(OCC#N)C=C1)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C17H10Cl2N2O2
